* Z:\home\nander\Github\public\AudioAmpLELT2\2-common-mode-gain.asc
R5 Vn Vsig 470
V1 +Vcc 0 15
V2 0 -Vcc 15
V3 Vsig 0 SINE(0 0.5 1k 0 0 0) AC 0.5
RL Vout 0 8
R6 Vout Vn 4.7k
R7 Vp 0 4.7k
R15 Vp Vsig 470
XX1 +Vcc -Vcc Vn Vp Vout audioamp

* block symbol definitions
.subckt audioamp +Vcc -Vcc Vn Vp Vout
Q4 N009 Vp N005 0 BC557B
Q5 N010 Vn N006 0 BC557B
R1 N009 -Vcc 2.2k
R3 +Vcc N004 3.3k
R4 +Vcc N001 2.2k
R2 N010 -Vcc 100
R9 N007 N008 8k
R10 N008 Vout 120
Q2 +Vcc N001 N003 0 NPN
Q3 +Vcc N003 Vout 0 NPN
R11 N001 N003 8k
R12 N003 Vout 120
Q6 -Vcc N008 Vout 0 PNP
Q7 -Vcc N007 N008 0 PNP
Q1 N007 N009 -Vcc 0 BC547C
C1 N007 N009 10p
D1 P001 P002 1N4148
D2 P002 P003 1N4148
D3 P003 N007 1N4148
D4 N002 P001 1N4148
D5 N001 N002 1N4148
R13 N004 N005 10
R14 N004 N006 10
.ends audioamp

.model D D
.lib C:\users\nander\Meus Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\nander\Meus Documentos\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 5m 0 0.01u
.FOUR 1khz 51 V(Vout)
.ac dec 51 1 100meg
.backanno
.end
